US05051423
N-[-2-[4-(1H-Imidazol-1-yl)phenoxy]-1,1-dimethylethyl]acetamide
Dissolve 27 g (0.126 mol) of 1-[4-(2-methyl-2-propenyloxy)phenyl]-1H-imidazole in a solution of 78 mL of glacial acetic acid and 29 mL of acetonitrile. Cool this solution to 0° C. over an ice bath and add 29.0 mL of 95% sulfuric acid dropwise at a rate to keep temperature below 15° C. Upon completionof the addition, stir overnight at room temperature. After this time, make basic (pH=12-14) with 4 N sodium hydroxide. Dilute with 400 mL of water and extract with 3×400 mL of diethyl ether. Concentrate the combinedether extracts to 350 mL on the rotary evaporator and cool in the refrigerator for 1 h. Filter off the resulting precipitate to provide the title compound.

reactant | 1-[4-(2-methyl-2-propenyloxy)phenyl]-1H-imidazole | 0.126 mol, 27 g | CC(COC1=CC=C(C=C1)N1C=NC=C1)=C | C13H14N2O
reactant | sulfuric acid | 29.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
reactant | acetonitrile | 29 mL | C(C)#N | C2H3N
solvent | acetic acid | 78 mL | C(C)(=O)O | C2H4O2
solvent | water | 400 mL | O | H2O
product | N-[-2-[4-(1H-Imidazol-1-yl)phenoxy]-1,1-dimethylethyl]acetamide | N1(C=NC=C1)C1=CC=C(OCC(C)(C)NC(C)=O)C=C1 | C15H19N3O2
